US07786129B2
5,7-Dichloro-3-[4-[4-(3-chlorophenyl)-piperazin-1-yl]-butyl]-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 starting from 5,7-dichloro-3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(3-chloro-phenyl)-piperazine.

reactant | 5,7-dichloro-3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(CC)CCCCCl | C14H16Cl3NO
reactant | 1-(3-chloro-phenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 5,7-Dichloro-3-[4-[4-(3-chlorophenyl)-piperazin-1-yl]-butyl]-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(CC)CCCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C24H28Cl3N3O
